US08859592B2
To a solution of 4-(5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl)-2-methyl-benzo[d]oxazole-7-carboxylic acid methyl ester (2.75 g) in tetrahydrofuran (50 ml) was added aqueous sodium hydroxide (1M) (8.7 ml) and methanol (5 ml). The reaction mixture was stirred at ambient temperature for 2.5 hours. The reaction mixture was diluted with aqueous hydrochloric acid (1M) (150 ml) and ethyl acetate (200 ml) and the phases separated. The organic phase was washed with brine, dried over sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (eluent: 1-6% v/v methanol in dichloromethane) to give 4-(5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl)-2-methyl-benzo[d]oxazole-7-carboxylic acid (2.12 g) as yellow solid. 1H-NMR (400 MHz, CDCl3): 8.05-7.43 (m, 5H), 4.57 (d, 1H), 4.13 (d, 1H), 2.79 (s, 3H) ppm.

reactant | 4-(5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl)-2-methyl-benzo[d]oxazole-7-carboxylic acid methyl ester | 2.75 g | COC(=O)C1=CC=C(C=2N=C(OC21)C)C2=NOC(C2)(C(F)(F)F)C2=CC(=CC(=C2)Cl)Cl | C20H13Cl2F3N2O4
reactant | sodium hydroxide | 1M, 8.7 ml | [OH-].[Na+]
reactant | methanol | 5 ml | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 1M, 150 ml | Cl | ClH
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 4-(5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl)-2-methyl-benzo[d]oxazole-7-carboxylic acid | 2.12 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C2=C1N=C(O2)C)C(=O)O)C(F)(F)F | C19H11Cl2F3N2O4
